US06352999B1
To a stirred mixture of 58.5 g of 1H-indole, 107.5 ml of 1-bromo-3-chloropropane, 15 mg of N,N,N-triethylbenzenemethanaminium chloride and 450 ml of benzene were added dropwise, during a period of 30 minutes, 250 ml of a sodium hydride dispersion 60% at 40° C. Upon completion, stirring was continued for 1 hour at 40° C. Another amount of 15 ml of 1-bromo-3-chloropropane was added and stirring was continued for 1 hour at 50° C. After cooling, the reaction mixture was poured into water. The product was extracted with benzene. The extract was separated, dried, filtered and evaporated. The residue was distilled, yielding 80 ml (83%) of 1-(3-chloropropyl)-1H-indole (interm. 10); bp. 120-125° C.

reactant | 1H-indole | 58.5 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-bromo-3-chloropropane | 107.5 ml | BrCCCCl | C3H6BrCl
reactant | benzene | 450 ml | C1=CC=CC=C1 | C6H6
reactant | sodium hydride | 250 ml | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 15 ml | BrCCCCl | C3H6BrCl
catalyst | N,N,N-triethylbenzenemethanaminium chloride | 15 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | O | H2O
product | 1-(3-chloropropyl)-1H-indole | 80 ml, 83% | ClCCCN1C=CC2=CC=CC=C12 | C11H12ClN
